US07259157B2
A solution of 1H-pyrazole-4-carboxylic acid (piperidin-4-ylmethyl)-amide (290 mg, 1.39 mmol), trans-2-phenylcyclopropanecarbaldehyde (224 mg, 1.53 mmol) and sodium triacetoxyborohydride (590 mg, 2.78 mmol) in MeOH (15 mL) was heated to 50° C. and stirred for 1 h. The resulting reaction mixture was concentrated and purified by silica gel chromatography (gradient: CH2Cl2 to 80:20:2 CH2Cl2:MeOH:NH4OH) to give the trans 1H-pyrazole-4-carboxylic acid [1-(2-phenyl-cyclopropylmethyl)-piperidin-4-ylmethyl]-amide product.

reactant | 1H-pyrazole-4-carboxylic acid (piperidin-4-ylmethyl)-amide | 1.39 mmol, 290 mg | N1CCC(CC1)CNC(=O)C=1C=NNC1 | C10H16N4O
reactant | trans-2-phenylcyclopropanecarbaldehyde | 1.53 mmol, 224 mg | C1(=CC=CC=C1)[C@H]1[C@@H](C1)C=O | C10H10O
reactant | sodium triacetoxyborohydride | 2.78 mmol, 590 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | MeOH | 15 mL | CO | CH4O
product | trans 1H-pyrazole-4-carboxylic acid [1-(2-phenyl-cyclopropylmethyl)-piperidin-4-ylmethyl]-amide | C1(=CC=CC=C1)[C@H]1[C@@H](C1)CN1CCC(CC1)CNC(=O)C=1C=NNC1 | C20H26N4O
